US06462036B1
A mixture of N-(1-oxoindan-5-yl)acetamide (10.0 g, obtained from the Maybridge Chemical Co. Ltd), benzaldehyde (6.73 g), glacial acetic acid (1.06 g) and piperidine (10.8 g) was heated to 90° C. under nitrogen. Methanol (200 ml) was added and the mixture was cooled and then filtered to give N-(2-benzylidene-1-oxo-indan-5-yl)acetamide (13.47 g).

reactant | N-(1-oxoindan-5-yl)acetamide | O=C1CCC2=CC(=CC=C12)NC(C)=O | C11H11NO2
reactant | benzaldehyde | 6.73 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetic acid | 1.06 g | C(C)(=O)O | C2H4O2
reactant | piperidine | 10.8 g | N1CCCCC1 | C5H11N
solvent | Methanol | 200 ml | CO | CH4O
product | N-(2-benzylidene-1-oxo-indan-5-yl)acetamide | 13.47 g | C(C1=CC=CC=C1)=C1C(C2=CC=C(C=C2C1)NC(C)=O)=O | C18H15NO2
